Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hand arthritis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with no prior PMH who
presents for a hand infection. The history is gathered from the
daughter, the pt using his daughter as an interpreter (with the
pt's consent), and records. The pt first noticed left hand and
wrist swelling and pain on ___. He had no unusual
exposures. He had not been camping, gardening, in contact with
animals, recently ill, recently exposed to antibiotics or a
hospital setting, or recently traveled. He had no water 
exposure.
He had no known cuts, breaks in the skin, or trauma.

The swelling worsened and the pt reported was given doxycycline
by his PCP without improvement. He then went to ___ where he
received dalbavancin ___ with some initial improvement. However
the swelling recurred. He was given cephalexin, then ___ the
abx were changed from cephalexin to ciprofloxacin + fluconazole
200 mg daily (plan for 10 days total) + three days of prednisone
80 mg PO daily. Again, there was no improvement. The swelling
tended to fluctuate but has been worse over the past ___ days.
Additionally the pt has noticed darkening of the skin over the
fingers for the past 7 days. He has pain with movement of the
wrist and tenderness with palpation of the wrist and dorsal 
hand.
He denies numbness/tingling. He can move his fingers.

The pt is being admitted for cellulitis which failed outpatient
antibiotic therapy. Given his initial improvement with
dalbavancin, the most likely etiology is staph.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Pt denies any known PMH
He had an appendectomy years ago.
H/o left eye cataract surgery.
 
Social History:
___
Family History:
No FH of CAD or unusual infections.
 
Physical Exam:
Admission Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, left pupil is larger than right (baseline after
cataract surgery)
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple. Bilateral ___ with no erythema or edema. RUE
with no erythema or edema. LUE has swelling over the fingers,
dorsal hand, and wrist. Darkening of the skin over the fingers,
dorsal hand, and wrist. Good arterial pulse, good capillary
refill on all fingers, full sensation, warm hands. Moves all his
fingers.
SKIN: No rashes except as noted above.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Exam;
General: Patient appears overall well, he is extremely pleasant, 
smiling and laughing throughout the conversation. Alert, 
oriented to himself, ___ and ___. In no 
acute distress. Moving left hand more
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel
sounds throughout, no rebound or guarding
Ext: Left hand swelling is significantly improved and skin 
wrinkled. He is able to flex and extend his wrist some more. 
Skin with hyperpigmentation, without erythema or warmth to 
touch. There is pain with palpation over radial/ulnar
and dorsum of hand.   
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric           
 
Pertinent Results:
Admission Labs:
___ 01:05PM BLOOD WBC-9.2 RBC-4.85 Hgb-14.0 Hct-43.5 MCV-90 
MCH-28.9 MCHC-32.2 RDW-14.2 RDWSD-46.7* Plt ___
___ 01:05PM BLOOD Neuts-67.0 ___ Monos-6.5 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-6.17* AbsLymp-2.29 AbsMono-0.60 
AbsEos-0.07 AbsBaso-0.04
___ 01:05PM BLOOD Plt ___
___ 01:05PM BLOOD Glucose-113* UreaN-17 Creat-1.1 Na-136 
K-5.0 Cl-101 HCO3-26 AnGap-9*
___ 01:05PM BLOOD CK(CPK)-197
___ 01:05PM BLOOD Calcium-9.7 Phos-4.5 Mg-2.3
   
Hand X-Ray:  
1. Soft tissue swelling of the dorsum of the left hand without 
underlying bony lucency to suggest osteomyelitis.  No acute 
fracture.
2. Widening of the scapholunate interval without significant 
proximal migration of the capitate, consistent with scapholunate 
dissociation.  Mild resultant degenerative changes in the distal 
lunate and radius.
     
Hand US:
Subcutaneous edema noted throughout the left posterior wrist and 
hand.  No discrete fluid collection identified.
  
MRI Hand Wetread:
  
1.  No findings to suggest osteomyelitis.  No drainable Fluid 
collection or rim enhancing abscess seen. 
2.  Moderate diffuse subcutaneous edema, most severe along the 
dorsal surface. Findings are consistent mild radiocarpal 
synovitis and tenosynovitis in the extensor and flexor 
compartments, particularly involving the second, third and 
fourth compartments, flexor pollicis longus and flexor digitorum 
tendons. There is also evidence of mild tendinosis involving the 
ECU, and mild patchy myositis.  These findings are likely 
related to inflammatory arthropathy/reactive changes, however 
infection cannot be entirely excluded. 
3.  Chronic scapholunate ligamentous tear, and dorsal tilt of 
the lunate 
consistent with DISI. 

 
Brief Hospital Course:
___ is a ___ yo man with no significant PMH who presents with 
left hand swelling and pain initially concerning for cellulitis 
x1 month which has failed multiple outpatient courses of 
antibiotics and diagnosed with inflammatory arthritis.
     
# Left wrist and hand inflammatory arthritis 
Presented to ___ with recurrent painful arthritis of left 
wrist and hand which was treated over the course of the month 
prior to admission as an outpatient for cellulitis without 
significant improvement. Records from ___ indicate he was 
treated multiple times with dalbavancin and also received a 
short course of 80mg Prednisone which improved his symptoms. 
Hand surgery evaluated inpatient and felt unlikely to be 
infectioous arthritis. Rheumatology evaluated and agrees likely 
inflammatory arthritis. No sign of compartment syndrome or 
necrotizing fasciitis throughout admission, and with good 
perfusion. X-ray of hand without acute fracture, dislocation or 
evidence of OM. MRI performed and showed mild radiocarpal 
synovitis and tenosynovitis in the extensor and flexor 
compartments, mild tendinosis involving the ECU, and mild patchy 
myositis, likely related to inflammatory arthropathy / reactive 
changes. He was started on Prednisone 20mg daily and Colchicine 
0.6mg PO BID and demonstrated rapid improvement in symptoms. He 
was discharged to continue the same regimen until seen in 
___ clinic 1 week post discharge. He was also 
prescribed a Volar wrist splint, which was provided prior to 
discharge.
 
Transitional issues:
- ___ benefit from outpatient OT to assist with function of left 
hand

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 tablet(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  PredniSONE 20 mg PO DAILY 
RX *prednisone 20 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
3.Outpatient Occupational Therapy
Left hand arthritis

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Inflammatory arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

It was a pleasure treating you during this hospitalization. You 
were admitted to ___ with swelling and pain of your left hand. 
You were seen by our rheumatologists and hand surgery team. You 
were diagnosed with inflammatory arthritis and started on 
steroids and colchicine with improvement in your symptoms. 
Please continue to take these medications every day and follow 
up with your rheumatologist as below. It is VERY IMPORTANT that 
you take your medications EVERY DAY as prescribed otherwise your 
hand symptoms will worsen again.
 
Followup Instructions:
___